US04745229
346 mg (2 mmols) of geranyl chloride and 787 mg (6 mmols) of N-ethylmorpholine N-oxide were placed in a flask, to which was further added 3 ml of N,N-dimethylformamide. The mixture was agitated at room temperature for 1 hour and at 50° C. for 4 hours. To the reaction mixture was added 10 ml of 2.5% sulfuric acid and 10 ml of ethyl acetate for phase separation. The resultant organic phase was washed with 5 ml of 2.5% sulfuric acid, 5 ml of a saturated sodium hydrogen carbonate aqueous solution and 5 ml of a 10% sodium sulfate aqueous solution successively, after which it was dried with magnesium sulfate. After the drying, the solvent was distilled off from the solution and the residue was subjected to distillation by the use of Kugel-rohr distillation apparatus (bath temperature 93° C./3 Torr.) to obtain 268 mg (1.76 mmols) of citral. The yield was 88%.

reactant | geranyl chloride | 2 mmols, 346 mg | C(\C=C(/C)\CCC=C(C)C)Cl | C10H17Cl
reactant | N-ethylmorpholine N-oxide | 6 mmols, 787 mg | C(C)[N+]1(CCOCC1)[O-] | C6H13NO2
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | citral | 1.76 mmols, 268 mg, yield was 88% | CC(C)=CCCC(C)=CC=O | C10H16O
